US06043248
A solution of 6-hydroxy-2-(2-naphthylmethylthio)-pyrimidine-4-carboxylic acid (2.50 g, 8.0 mmol) and 1,1-carbonyldiimidazole (1.94 g, 12 mmol) in DMF (30 ml) were stirred for 30 min, then treated with abs ethanol (8.0 ml). After 1.5 hrs of stirring, the reaction was poured onto water, stirred for 20 min, then filtered and dried to give 2.371 g (88%) of 6-hydroxy-2-(2-naphthylmethylthio)-pyrimidine-4-carboxylic acid ethyl ester.

reactant | 6-hydroxy-2-(2-naphthylmethylthio)-pyrimidine-4-carboxylic acid | 8.0 mmol, 2.50 g | OC1=CC(=NC(=N1)SCC1=CC2=CC=CC=C2C=C1)C(=O)O | C16H12N2O3S
reactant | ethanol | 8.0 ml | C(C)O | C2H6O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 6-hydroxy-2-(2-naphthylmethylthio)-pyrimidine-4-carboxylic acid ethyl ester | 2.371 g, 88% | C(C)OC(=O)C1=NC(=NC(=C1)O)SCC1=CC2=CC=CC=C2C=C1 | C18H16N2O3S
